US07989449B2
1-Bromo-3-(1-(3-methoxy-phenyl)-vinyl)-benzene 128358-69-21
A solution of 1-(3-bromo-phenyl)-1-(3-methoxy-phenyl)-ethanol (31 g, ca. 100 mmol) in toluene (250 mL) was heated at reflux with para-toluenesulfonic acid (200 mg) in a Dean-Stark apparatus for 4 h. After TLC indicated complete conversion of starting material, the solution was left to cool, evaporated under reduced pressure and purified by flash chromatography (100 g silica gel, gradient cyclohexane 100% to 4% ethyl acetate in cyclohexane, eluant ca. 1 L, Rf 0.25 with 4% ethyl acetate in cyclohexane) to give a yellow oil (17.8 g, 62% over 2 steps).

reactant | 1-(3-bromo-phenyl)-1-(3-methoxy-phenyl)-ethanol | ca. 100 mmol, 31 g | BrC=1C=C(C=CC1)C(C)(O)C1=CC(=CC=C1)OC | C15H15BrO2
reactant | para-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Bromo-3-(1-(3-methoxy-phenyl)-vinyl)-benzene | BrC1=CC(=CC=C1)C(=C)C1=CC(=CC=C1)OC | C15H13BrO
